US04195093
(a) Methyl (5,6,7,8-tetrahyro-1-naphthyloxy)-acetate
10 g 5,6,7,8-tetrahyro-1-naphthol are dissolved in 150 ml 2-butanone and then 18.5 g potassium carbonate and 12.3 g methyl bromoacetate are introduced into the mixture. After having been refluxed for 24 hours, the mixture is filtered, the solvent evaporated under reduced pressure and after removal of the starting phenol soluble in aqueous basic medium, 13.1 g of final product are distilled.

reactant | 5,6,7,8-tetrahyro-1-naphthol | 10 g | C1(=CC=CC=2CCCCC12)O | C10H12O
reactant | potassium carbonate | 18.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 12.3 g | BrCC(=O)OC | C3H5BrO2
solvent | 2-butanone | 150 ml | CC(CC)=O | C4H8O
product | Methyl (5,6,7,8-tetrahyro-1-naphthyloxy)-acetate | C1(=CC=CC=2CCCCC12)OCC(=O)OC | C13H16O3
